US05965591
To a solution of 3-(2-(N-t-butoxycarbonylamino)ethoxy)-1,2-benzisoxazole (0.28 g) in tetrahydrofuran (30 ml) was added butyl lithium (1.40 ml, 1.6M hexane solution) dropwise with stirring at -70° C. under nitrogen atmosphere, and the mixture then stirred at the same temperature for 15 minutes. Gaseous carbon dioxide was introduced to the reaction mixture for 10 minutes and the temperature was raised to 0° C. The reaction mixture was poured into ice water (40 ml) and washed with diethylether (twice each with 40 ml). The aqueous layer was separated, after pH was adjusted to 4 with potassium dihydrogen phosphate, and extracted with ethyl acetate (twice each with 40 ml). The combined extracts was dried over anhydrous magnesium sulphate and filtered. The solvent was evaporated under reduced pressure and 3-(2-(N-t-butoxycarbonylamino)ethoxy)-4-carboxy-1,2-benzisoxazole and 3-(2-(N-t-butoxycarbonylamino)ethoxy)-7-carboxy-1,2-benzisoxazole were obtained as a colorless oily mixture (0.31 g, 92%).

reactant | 3-(2-(N-t-butoxycarbonylamino)ethoxy)-1,2-benzisoxazole | 0.28 g | C(C)(C)(C)OC(=O)NCCOC1=NOC2=C1C=CC=C2 | C14H18N2O4
reactant | butyl lithium | 1.6M, 1.40 ml | C(CCC)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 3-(2-(N-t-butoxycarbonylamino)ethoxy)-7-carboxy-1,2-benzisoxazole | C(C)(C)(C)OC(=O)NCCOC1=NOC2=C1C=CC=C2C(=O)O | C15H18N2O6
